US07638629B2
Step 3: (±)-{1-[2,5-Bis(trifluoromethyl)phenyl]butyl}{(1E)-[4-(trifluoromethyl)phenyl]methylene}amine
A mixture of 1-[2,5-bis(trifluoromethyl)phenyl]butan-1-amine (2.95 g, 10.3 mmol) and 4-trifluoromethyl benzaldehyde (1.8 g, 10.3 mmol) was swirled together for 30 minutes. M/Z (ES+) 442 (ME).

reactant | 1-[2,5-bis(trifluoromethyl)phenyl]butan-1-amine | 10.3 mmol, 2.95 g | FC(C1=C(C=C(C=C1)C(F)(F)F)C(CCC)N)(F)F | C12H13F6N
reactant | 4-trifluoromethyl benzaldehyde | 10.3 mmol, 1.8 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | (±)-{1-[2,5-Bis(trifluoromethyl)phenyl]butyl}{(1E)-[4-(trifluoromethyl)phenyl]methylene}amine | FC(C1=C(C=C(C=C1)C(F)(F)F)C(CCC)/N=C/C1=CC=C(C=C1)C(F)(F)F)(F)F | C20H16F9N
